US07989444B2
Preparation 9: 1,1-Dimethylethyl 7-amino-8-hydroxy-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate
1,1-Dimethylethyl 7-hydroxy-8-nitro-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate (8.2 g) was hydrogenated for 4 h under atmospheric pressure and 25° C. in the presence of 10% Pd/C (1.4 g) in EtOH (200 ml). The catalyst was removed by filtration and volatiles evaporated to provide the title compound as a grey solid (7.4 g).

reactant | 1,1-Dimethylethyl 7-hydroxy-8-nitro-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 8.2 g | OC1=CC2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1[N+](=O)[O-] | C15H20N2O5
solvent | EtOH | 200 ml | CCO | C2H6O
catalyst | Pd/C | 1.4 g | [Pd] | Pd
product | 1,1-Dimethylethyl 7-amino-8-hydroxy-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 7.4 g | NC1=CC2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1O | C15H22N2O3
